US05302724
B. N-[[(4-chlorophenyl)amino]carbonyl]-5-ethyl-2-furansulfonamide
To a solution of 5-ethyl-2-furansulfonamide (4.5 g, 25.7 mmole) in 40 ml of acetone was added aqueous sodium hydroxide (25.7 ml of 1N, 25.7 mmole) followed by a solution of 4-chlorophenylisocyanate (3.9 g, 25.7 mmole) dissolved in 40 ml of acetone. The reaction was stirred at room temperature overnight and filtered through a plug of celite. The filtrate was acidified with hydrochloric acid (25.7 ml of 1N, 25.7 mmole) and the resulting precipitate filtered to produce 8.3 g of solid.

reactant | 5-ethyl-2-furansulfonamide | 25.7 mmole, 4.5 g | C(C)C1=CC=C(O1)S(=O)(=O)N | C6H9NO3S
reactant | sodium hydroxide | 25.7 mmole, 1N, 25.7 ml | [OH-].[Na+]
reactant | 4-chlorophenylisocyanate | 25.7 mmole, 3.9 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | hydrochloric acid | 25.7 mmole, 1N, 25.7 ml | Cl | ClH
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | N-[[(4-chlorophenyl)amino]carbonyl]-5-ethyl-2-furansulfonamide | 8.3 g | ClC1=CC=C(C=C1)NC(=O)NS(=O)(=O)C=1OC(=CC1)CC | C13H13ClN2O4S
